US05665725
A solution of 1,2-benzisoxazole-3-acetic acid (prepared according to G. Casini et al, J. Het. Chem. 6, 1969, 279) (18 g), ether saturated with dry HCl (150 ml) and methanol (200 ml) was stirred for 2 h at room temperature. Removal of the volatiles in vacuo gave methyl 1,2-benzisoxazole-3-acetate (17 g) as an oil. The oil was dissolved in tetrahydrofuran (100 ml) and added dropwise to a suspension of lithium aluminium hydride (6 g) in tetrahydrofuran (200 ml) at 0°-10° C. followed by stirring for 30 min at 15° C. Usual work-up gave 2-(1,2-benzisoxazol-3-yl)ethanol (13 g) as an oil.

reactant | 1,2-benzisoxazole-3-acetic acid | 18 g | O1N=C(C2=C1C=CC=C2)CC(=O)O | C9H7NO3
reactant | ether | CCOCC | C4H10O
reactant | HCl | 150 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | methyl 1,2-benzisoxazole-3-acetate | 17 g | O1N=C(C2=C1C=CC=C2)CC(=O)OC | C10H9NO3
